US07732446B1
A sample of 1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester was hydrolyzed with 2 eq of LiOH as described in Example 1D to give 1-(tert-Butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid: 1H NMR (DMSO-d6) δ 1.37 (s, 9H), 3.90 (s, 3H), 3.93 (s, 3H), 4.74 (d, 2H), 7.33-7.36 (m, 1H), 7.61 (s, 1H), 8.37 (s, 1H), 8.82 (s, 1H).

reactant | 1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)CNC(=O)OC(C)(C)C | C20H26N2O6
reactant | LiOH | 2 eq | [Li+].[OH-]
product | 1-(tert-Butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)C(=O)O | C18H22N2O6
